* CDZV2_2B D model
* PKG: VMN2M,Vz=2.2V at Iz=5mA,Pd=100mW
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2015/08/28
*****************A C
.SUBCKT CDZV2_2B 1 2
.PARAM T0=25
.FUNC I1(V) {IF(V<0,-8.350E-06*((-V*(1+5.984E-04*(TEMP-T0)+5.613E-7*(TEMP-T0)**2))**7.480E+00+
+           (-V*(1+2.834E-04*(TEMP-T0)+5.613E-7*(TEMP-T0)**2))**5.234E+00),0)}
R1 1 2 1E15
E1 3 0 VALUE={V(1,2)}
V1 3 4 0
D1 4 0 D1
V2 3 5 0
D2 5 0 D2
G1 1 2 VALUE={I1(V(3))+I(V1)-I(V2)*IF(V(3)<0,1,0)}
.MODEL D1 D
+ IS=5.5477E-16
+ N=1.0089
+ RS=.18059
+ IKF=42.780
+ CJO=7.4513E-11
+ M=2.6420
+ VJ=9.9900
+ ISR=6.4944E-11
+ NR=4.9950
+ BV=4.2000
+ TT=2.7000E-8
+ NBVL=4.5000
+ IBVL=6.0000
.MODEL D2 D
+ IS=5.5477E-16
+ N=1.0089
+ RS=.18059
+ IKF=42.780
+ M=2.6420
+ VJ=9.9900
.ENDS CDZV2_2B




















